US07435837B2
(±)-N-{[7-(2,6-dichlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl}ethanamine
The title compound was prepared (0.068 g, 56%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-([5-fluoro-7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.15 g, 0.32 mmol) and ethylamine (0.138 g, 3.2 mmol). mp 138.140° C.

reactant | [5-fluoro-7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.32 mmol, 0.15 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2Cl)Cl)F | C22H17Cl2FO4S
reactant | ethylamine | 3.2 mmol, 0.138 g | C(C)N | C2H7N
product | (±)-N-{[7-(2,6-dichlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl}ethanamine | ClC1=C(C(=CC=C1)Cl)C1=CC(=CC=2CC(OC21)CNCC)F | C17H16Cl2FNO
